US08486979B2
5-(5-fluoropyridin-3-yl)-3-(imidazo[1,2-a]pyridin-6-yl)-1,2,4-oxadiazole
The title compound was prepared according to method C using N′-hydroxyimidazo[1,2-a]pyridine-6-carboximidamide (Bionet) and 5-fluoronicotinic acid (Frontier). 1H NMR (300 MHz, DMSO-d6) δ 7.71 (d, J=1.4 Hz, 1 H), 7.74-7.88 (m, 2 H), 8.20 (s, 1 H), 8.51 (ddd, J=9.0, 2.9, 1.7 Hz, 1 H), 8.97 (d, J=3.1 Hz, 1 H), 9.24 (t, J=1.5 Hz, 1 H), 9.47 (t, J=1.4 Hz, 1 H) ppm; MS (DCI/NH3) m/z 282 (M+H)+.

reactant | N′-hydroxyimidazo[1,2-a]pyridine-6-carboximidamide | ON=C(N)C=1C=CC=2N(C1)C=CN2 | C8H8N4O
reactant | 5-fluoronicotinic acid | FC=1C=NC=C(C(=O)O)C1 | C6H4FNO2
reactant | NH3 | N | H3N
product | 5-(5-fluoropyridin-3-yl)-3-(imidazo[1,2-a]pyridin-6-yl)-1,2,4-oxadiazole | FC=1C=C(C=NC1)C1=NC(=NO1)C=1C=CC=2N(C1)C=CN2 | C14H8FN5O
